US08461162B2
[4-(Methoxycarbonyl)phenyl]boronic acid (0.5 g, 2.77 mmol) was added to 3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidine (0.7 g, 2.52 mmol). DMF (12.5 mL) and 1M Na2CO3 (3.8 mL) were added. The mixture was evacuated and flushed with nitrogen under stirring, then Pd(Ph3P)4 (0.15 g, 0.13 mmol) was added in a counter flow of nitrogen. The reaction mixture was heated to 85° C. for 16 h, cooled, and poured into a 5-fold excess of water. The solids were filtered and dried to give crude methyl 4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]benzoate: LC/MS [M+H]=334.0.

reactant | [4-(Methoxycarbonyl)phenyl]boronic acid | 2.77 mmol, 0.5 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidine | 2.52 mmol, 0.7 g | BrC=1C=NN2C1N=CC(=C2)C=2C=NN(C2)C | C10H8BrN5
reactant | DMF | 12.5 mL | CN(C)C=O | C3H7NO
reactant | Na2CO3 | 1M, 3.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 0.13 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | methyl 4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]benzoate | CN1N=CC(=C1)C=1C=NC=2N(C1)N=CC2C2=CC=C(C(=O)OC)C=C2 | C18H15N5O2
